US08372986B2
1-phenethyl-5-phenyl-1H-1,2,3-triazole (8a)
Phenethyl azide (148 mg, 1 mmol), phenylacetylene (113 mg, 1.1 mmol), Cp*RuCl(PPh3)2 (8 mg, 0.01 mmol, 1 mol %). Solvent: THF, 10 mL, 60° C., 2 hours. Off-white product obtained in 89% yield (221 mg). ESI-MS: m/z 250, [M+H].

reactant | Phenethyl azide | 1 mmol, 148 mg | C(CC1=CC=CC=C1)N=[N+]=[N-] | C8H9N3
reactant | phenylacetylene | 1.1 mmol, 113 mg | C1(=CC=CC=C1)C#C | C8H6
catalyst | Cp*RuCl(PPh3)2 | 0.01 mmol, 8 mg | C[C-]1C(=C(C(=C1C)C)C)C.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Ru+]
solvent | THF | C1CCOC1 | C4H8O
product | 1-phenethyl-5-phenyl-1H-1,2,3-triazole | 89% yield | C(CC1=CC=CC=C1)N1N=NC=C1C1=CC=CC=C1 | C16H15N3
